Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15],1.7582388772
[H:1][O:2][C:3]#[C:4][O:5][C:6][H:7].[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-4.2423503342
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],5.09671953546
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]=[O:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7],-0.69171386513
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[C:8]=[O:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],3.9865474139
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.41336045349
[C:9]([H:10])(=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.937573921259
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.09809455231
[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-7.664982914219999
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],2.35123798298
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([C:3]=[O:4])=[C:9]\[C:10]([H:11])([H:12])[H:13],0.92036776566
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]1/[C:8][C:9]1([H:10])[H:11],2.61947512325
[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-0.66585625169
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([C:4]#[C:5])[O:10][H:11]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-3.5319642359099994
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-1.91796750384
[C:6]#[C:7][H:8].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-2.98303672363
[C:1]#[C:2][O:3][C:4]#[C:5]>>[C:1]#[C:2].[O:3][C:4][C:5],1.54682749933
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.10339109077
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14],4.571802980069999
[H:1][O:2][C:3][C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.69302230977
[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[O:8][H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9],-1.99145453099
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:8][H:9],2.18879723107
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],1.89867598307
[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:4],3.99645152712
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8],7.376511763069999
[H:1][O:2][C:3]([H:4])[C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.21474844566
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.04290701051
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:9]([H:10])[H:11].[O:7][H:8],6.1739224567400015
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.59766271521
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-1.81144168581
